US06878721B1
8-Benzyloxy-5-bromo-3-methyl-1H-quinolin-2-one
A solution of bromine (0.57 g) in acetic acid (2 mL) is added dropwise to a solution of 8-benzyloxy-3-methyl-1H-quinolin-2-one (0.94 g) and sodium acetate (0.96 g) in acetic acid (12 mL) at room temperature. The reaction mixture is stirred at room temperature for 3 hours, evaporated, the residue partitioned between water (5 mL) and ethyl acetate (5 mL), extracting a further 2× with ethyl acetate (5 mL). Combined organic extracts are dried over magnesium sulphate and purified by flash column chromatography on silica gel, eluting with 2% methanol in dichloromethane.

reactant | bromine | 0.57 g | BrBr | Br2
reactant | 8-benzyloxy-3-methyl-1H-quinolin-2-one | 0.94 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=C(C(NC12)=O)C | C17H15NO2
reactant | sodium acetate | 0.96 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 8-Benzyloxy-5-bromo-3-methyl-1H-quinolin-2-one | C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(C(NC12)=O)C)Br | C17H14BrNO2
